US06924278B2
4-Benzyl-5,5-dimethyl-3-morpholinone (4.45 g) was added to an ice-cooled suspension of lithium aluminum hydride (0.77 g) in dried tetrahydrofuran (20 ml) under nitrogen atmosphere. After 5 hours of stirring at 50° C., the reaction mixture was cooled below 5° C., and water (0.36 ml), 12% sodium hydroxide aqueous solution (0.36 ml) and water (1 ml) were added thereto successively. After 30 minutes of stirring, the mixture was filtrated through Celite® pad, and the pad was washed with ethyl acetate. The filtrate and washing were combined and the whole was dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of n-hexane and ethyl acetate. The fractions containing the objective compound were collected and evaporated under reduced pressure to give 4-benzyl-3,3-dimethylmorpholine as an oil. The obtained oil and ammonium formate (5.7 g) were dissolved into a mixed solvent of ethanol (35 ml) and water (5 ml), and the whole was stirred under reflux for 1 hour under nitrogen atmosphere. After cooling, the mixture was filtrated through Celite® pad. The filtrate was evaporated under reduced pressure. The residue was dissolved into methanol and 4N hydrogen chloride in ethyl acetate solution was added-thereto. The whole mixture was evaporated and the residue was triturated with a mixture of ethanol and n-hexane (1:1). The resulting crystals were collected by filtration and washed with a mixed solvent of ethanol and n-hexane (1:1) to give colorless crystals of 3,3-dimethylmorpholine hydrochloride (1.56 g).

reactant | 4-Benzyl-5,5-dimethyl-3-morpholinone | 4.45 g | C(C1=CC=CC=C1)N1C(COCC1(C)C)=O | C13H17NO2
reactant | lithium aluminum hydride | 0.77 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.36 ml | O | H2O
reactant | sodium hydroxide | 0.36 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-benzyl-3,3-dimethylmorpholine | C(C1=CC=CC=C1)N1C(COCC1)(C)C | C13H19NO
